US07132391B2
Treatment of 2,2,4-trimethylpentan-1,3-diol with ethyl bromide employing the alkylation reaction conditions described above provided 1-ethoxy-2,2,4-trimethylpentan-3-ol in 90.0% yield (313.2 g, b.p.=79–80 C./3.2 mmHg).

reactant | 2,2,4-trimethylpentan-1,3-diol | CC(CO)(C(C(C)C)O)C | C8H18O2
reactant | ethyl bromide | C(C)Br | C2H5Br
product | 1-ethoxy-2,2,4-trimethylpentan-3-ol | 90.0% yield | C(C)OCC(C(C(C)C)O)(C)C | C10H22O2
